US04937373
Boron tribromide (266 mL. 0.266 mol 1M in methylene chloride) was added dropwise over 1 hour to a cooled (-65°) solution of 40.0 g (0.133 mol) of 1-(6-bromohexyl)-2,3-dimethoxybenzene in 800 mL of anhydrous methylene chloride which was stirred in an argon atmosphere. The cooling bath was then removed and the reaction mixture was stirred for 1.5 hours. After cooling in an ice bath, 100 mL of water and 50 mL of 3N HCl were added and the mixture was stirred for 2 hours. The organic layer was separated, dried and concentrated under reduced pressure to an oil which was purified by HPLC using 5% methanol-chloroform to yield 34.7 g of 1-(6-bromohexyl)-2,3-dihydroxybenzene as an oil.

reactant | Boron tribromide | 0.266 mol, 1M, 266 mL | B(Br)(Br)Br | BBr3
reactant | 1-(6-bromohexyl)-2,3-dimethoxybenzene | 0.133 mol, 40.0 g | BrCCCCCCC1=C(C(=CC=C1)OC)OC | C14H21BrO2
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-bromohexyl)-2,3-dihydroxybenzene | 34.7 g | BrCCCCCCC1=C(C(=CC=C1)O)O | C12H17BrO2
